Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],-8.0475076513
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-3.68252982772
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[O:1]=[C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],4.43610415114
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6],3.94980242818
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:3],1.97426146336
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6](#[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]=[C:3]([H:4])[H:5],-1.33737006097
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14].[H:1][O:2],5.39506287278
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.56514883686
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]=[C:11]([H:12])[H:13].[H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-1.7416060779599998
[H:1][O:2][C:3]([H:4])([H:5])/[C:6](=[C:7]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6](=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.79168422255
[C:1]#[C:2][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[C:3]([H:4])([H:5])[H:6]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.18462527431
[H:1][C:2]#[C:3].[O:4]=[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9],-1.7705898626900003
[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-3.7388596121699993
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-1.50609697932
[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.67296347847
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],4.61083794217
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][O:2],5.35520989104
[C:3]([H:4])=[C:5]([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-6.098462179959999
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4][C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],5.51696819987
[C:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])[H:12]>>[C:1]#[C:2][H:3].[C:4]([H:5])([H:6])=[C:7]([H:8])[O:9][C:10]([H:11])[H:12],1.48820092241
[C:5]([H:6])([H:7])[H:8].[H:1][C:2]([H:3])[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[H:8],-4.15126753694
[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-5.01059208572
[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.02819561677
[C:8]([H:9])[H:10].[O:1][C:2]([H:3])([H:4])[C:5][O:6][H:7]>>[O:1][C:2]([H:3])([H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10],-7.51395239094
[O:1]=[C:2]=[C:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:5].[O:1]=[C:2]=[C:3][C:4][O:6][C:7]([H:8])([H:9])[H:10],4.16106000227
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2][C:12]([H:13])([H:14])[H:15],7.0644250284000005
[H:4].[O:1][O:2][C:3][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.41626046574
